### PR TITLE
reply_unlink_sc update

### PR DESCRIPTION
**Pull request by mktnk3**
This PR contains:

1. tweak the if-true branch of reply_unlink_sc to match replyPop
    
    - reorder to align with replyPop
    - use update_sched_context instead of set_sc_obj_ref

2. some proof fixes for the above change

### CODE REVIEW

File: spec/haskell/src/SEL4/Object/CNode.lhs [hunk 1]
```diff
@@ -338,7 +338,7 @@ Determine whether the CTE is valid, and has children to be deleted. If a child i
 >         nextCTE <- withoutPreemption $ getCTE nextPtr
 >         when (cte `isMDBParentOf` nextCTE) $ do
 >             cteDelete nextPtr True
->
+>             preemptionPoint
```
Comment (MitchellBuckley) [inline spec/haskell/src/SEL4/Object/CNode.lhs:341]: Is this supposed to be part of the current PR? It isn't mentioned in the description and doesn't seem related to reply queues.

**Review by MitchellBuckley — APPROVED** [review]
This looks good!

**Comment by MitchellBuckley** [comment]
Side note: I tried to trace out the correspondence of the abstract spec with the C and it's pretty confusing and not clear to me that everything lines up. In particular, there is a comment "― ‹FIXME RT: check the C code!›" in the abstract spec. Are we currently confident that the abstract spec aligns with the C?

File: spec/haskell/src/SEL4/Object/CNode.lhs (hunk 1 above)
Comment (mktnk3) [reply spec/haskell/src/SEL4/Object/CNode.lhs:341]: This is the commit that Gerwin merged this morning. I included it here so that the Refine test won't fail because of it missing. It will go away when I rebase later. (I kind of hoped that github will do that automatically..)

**Comment by mktnk3** [comment]
> Side note: I tried to trace out the correspondence of the abstract spec with the C and it's pretty confusing and not clear to me that everything lines up. In particular, there is a comment "― ‹FIXME RT: check the C code!›" in the abstract spec. Are we currently confident that the abstract spec aligns with the C?

Yes, the C tweak is and has been going.

File: proof/invariant-abstract/RISCV64/ArchFinalise_AI.thy [hunk 2]
```diff
@@ -959,11 +959,12 @@ lemma reply_unlink_sc_not_live:
   "\<lbrace>obj_at (\<lambda>ko. \<exists>r. ko = Reply r \<and> reply_tcb r = None) reply and invs\<rbrace>
      reply_unlink_sc sc_ptr reply
    \<lbrace>\<lambda>rv. obj_at (\<lambda>ko. \<not> live ko \<and> is_reply ko) reply\<rbrace>"
+  unfolding reply_unlink_sc_def
   apply (wpsimp wp: update_sched_context_obj_at_impossible
                     simple_obj_set_prop_at get_simple_ko_wp
                     set_simple_ko_obj_at_disjoint hoare_vcg_all_lift
-              simp: reply_unlink_sc_def is_reply update_sk_obj_ref_def
-        | wp (once) hoare_drop_imps)+
+              simp:  is_reply
```
Comment (corlewis) [inline proof/invariant-abstract/RISCV64/ArchFinalise_AI.thy:966]: nitpick: extra space

File: proof/invariant-abstract/RISCV64/ArchFinalise_AI.thy [hunk 3]
```diff
@@ -959,11 +959,12 @@ lemma reply_unlink_sc_not_live:
...
+        | wp (once) hoare_drop_imps | simp)+
```
Comment (corlewis) [inline proof/invariant-abstract/RISCV64/ArchFinalise_AI.thy:967]: This extra `simp` here seems a bit strange. Do you know why the `wpsimp` isn't enough?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 4]
```diff
@@ -3474,9 +3474,7 @@ lemma reply_unlink_sc_valid_sched_misc[wp]:
           (ready_queues s) (release_queue s) (scheduler_action s)
           (etcbs_of s) (tcb_sts_of s) (tcb_scps_of s) (tcb_faults_of s)
           (sc_refill_cfgs_of s)\<rbrace>"
-  apply (wpsimp simp: reply_unlink_sc_def
-                  wp: update_sk_obj_ref_wps set_simple_ko_wps get_simple_ko_wp)
-  by (auto simp: obj_at_kh_kheap_simps vs_all_heap_simps pred_map_simps fun_upd_def)
+  by (wpsimp simp: reply_unlink_sc_def wp: get_simple_ko_wp)
```
Comment (corlewis) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:3477]: That's a lot nicer!

**Review by corlewis — APPROVED** [review]

File: proof/invariant-abstract/RISCV64/ArchFinalise_AI.thy (hunk 3 above)
Comment (mktnk3) [reply proof/invariant-abstract/RISCV64/ArchFinalise_AI.thy:967]: I think it is something to do with unification that clarsimp fails to handle.
